US09326513B2
Preparation of N′-[5-bromo-6-(cis-4-isopropylcyclohexoxy)-2-methyl-3-pyridyl]-N-ethyl-N-methyl formamidine
The Vilsmeier reagent was freshly prepared by the slow addition of phosphorus oxychloride (7.09 mL, 75.89 mmol, 1.2 eq) to a solution of N,N-ethylmethylformamide (6.61 g, 75.89 mmol, 1.2 eq) in dichloromethane (75 mL) at room temperature. After the addition was complete, the reaction mixture was stirred at room temperature for 1 h. The Vilsmeier reagent was then added drop wise over 40 min to a solution of 5-bromo-6-(cis-4-isopropylcyclohexoxy)-2-methyl-pyridin-3-amine (20.70 g, 63.24 mmol) in dichloromethane (225 mL) at room temperature under inert atmosphere (Ar). Stirring was continued for 1.5 h at room temperature. The reaction mixture was then quenched by the addition of water (100 mL) and the pH was adjusted to 14 by the addition of a 2.0 molar aqueous NaOH solution (80 mL). The phases were separated and the aqueous phase extracted with dichloromethane (2×100 mL). The organic layer was washed with brine (250 mL), dried over anhydrous Na2SO4 and filtered. The solvent was removed in vacuo to give a residue, which was purified by column chromatography (silica gel, heptane/ethyl acetate, v/v=1/0-4/1). Fractions containing the pure compound were collected and concentrated in vacuo to give the title compound (20.23 g, 81%) as a yellow oil.

reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | phosphorus oxychloride | 75.89 mmol, 7.09 mL, 1.2 eq | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-bromo-6-(cis-4-isopropylcyclohexoxy)-2-methyl-pyridin-3-amine | 63.24 mmol, 20.70 g | BrC=1C=C(C(=NC1O[C@@H]1CC[C@@H](CC1)C(C)C)C)N | C15H23BrN2O
reactant | dichloromethane | 75 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 225 mL | ClCCl | CH2Cl2
product | N′-[5-bromo-6-(cis-4-isopropylcyclohexoxy)-2-methyl-3-pyridyl]-N-ethyl-N-methyl formamidine | 20.23 g, 81% | BrC=1C=C(C(=NC1O[C@@H]1CC[C@@H](CC1)C(C)C)C)N=CN(C)CC | C19H30BrN3O
